US08486952B2
To a solution of 2,4-dichloro-7-(4-fluorophenyl)-6,7-dihydro-5H-cyclopenta[d]pyrimidine (Preparation H) (200 mg, 0.706 mmol) in MeOH (7064 μL) was added (1S,4S)-2-Oxa-5-azabicyclo[2.2.1]heptane monohydrochloride (115 mg, 0.848 mmol) and DIPEA (271 μL, 1.554 mmol). The resulting mixture was stirred at RT overnight. The reaction mixture was then concentrated in vacuo. The resulting oil was purified by flash chromatography (Silica, EtOAc/Hexanes) to give (1S,45)-5-(2-chloro-7-(4-fluorophenyl)-6,7-dihydro-5H-cyclopenta[d]pyrimidin-4-yl)-2-oxa-5-azabicyclo[2.2.1]heptane (148 mg, 0.428 mmol, 60.6% yield). LC-MS (M+H)+=346.1. 1H NMR (500 MHz, MeOD) δ ppm 7.12-7.21 (2H, m), 7.00-7.08 (2H, m), 5.11-5.21 (1H, m), 4.69-4.74 (1H, m), 4.15-4.26 (1H, m), 3.88-3.94 (2H, m), 3.68-3.86 (2H, m), 3.11-3.21 (1H, m), 2.56-2.69 (1H, m), 1.92-2.11 (2H, m), 1.24-1.42 (2H, m).

reactant | 2,4-dichloro-7-(4-fluorophenyl)-6,7-dihydro-5H-cyclopenta[d]pyrimidine | 0.706 mmol, 200 mg | ClC=1N=C(C2=C(N1)C(CC2)C2=CC=C(C=C2)F)Cl | C13H9Cl2FN2
reactant | (1S,4S)-2-Oxa-5-azabicyclo[2.2.1]heptane monohydrochloride | 0.848 mmol, 115 mg | Cl.[C@@H]12OC[C@@H](NC1)C2
reactant | DIPEA | 1.554 mmol, 271 μL | CCN(C(C)C)C(C)C | C8H19N
solvent | MeOH | 7064 μL | CO | CH4O
product | (1S,45)-5-(2-chloro-7-(4-fluorophenyl)-6,7-dihydro-5H-cyclopenta[d]pyrimidin-4-yl)-2-oxa-5-azabicyclo[2.2.1]heptane | 0.428 mmol, 148 mg, 60.6% yield | ClC=1N=C(C2=C(N1)C(CC2)C2=CC=C(C=C2)F)N2[C@@H]1CO[C@H](C2)C1 | C18H17ClFN3O
